US06271237B1
t-Butyl 2-[5-(2-furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzylcarbamate:
Triethylamine (2.6 mL, 18.7 mmol) and di-t-butyl dicarbonate (4.0 g, 18.4 mmol) were added to 2-[5-(2-furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzylamine (3.77 g, 12.3 mmol) in THF (60 mL) and stirred at room temperature for 17 h. The reaction was concentrated, diluted with Et2O, and extracted with water (2×). The aqueous layers were combined and extracted with Et2O. The organic layers were combined, dried over MgSO4, filtered, and evaporated to yield crude product (5.58 g). The crude product was chromatographed on silica gel (10-20% EtOAc/hexanes) to yield a waxy solid (3.82 g, 76%). 1H NMR (CDCl3) δ7.57 (m, 2H), 7.43 (m, 2H), 7.32 (d, 1H, J=7.7), 6.95 (s, 1H), 6.28 (m, 1H), 5.66 (d, 1H, J=3.3), 4.82 (bs, 1H), 4.01 (bd, 2H, J=6.2), 1.39 (s, 9H).

reactant | Triethylamine | 18.7 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 18.4 mmol, 4.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[5-(2-furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzylamine | 12.3 mmol, 3.77 g | O1C(=CC=C1)C1=CC(=NN1C1=C(CN)C=CC=C1)C(F)(F)F | C15H12F3N3O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | t-Butyl 2-[5-(2-furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzylcarbamate | 3.82 g, 76% | O1C(=CC=C1)C1=CC(=NN1C1=C(CNC(OC(C)(C)C)=O)C=CC=C1)C(F)(F)F | C20H20F3N3O3
